Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I've been having a hard time this past semester." 

 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
For further details of the history and presentation, please see 
OMR, including Dr. ___ initial consultation note dated 
___ initial consultation note dated ___.  
. 
Briefly, this is a ___ year old woman with reported history of 
depression, daily cannabis use, currently a student at ___ 
___, no prior psychiatric hospitalizations or suicide 
attempts, who presented to ___ ED via EMS on a ___ from 
her therapist due to concern for suicidal ideation. 
. 
On interview in the ED, patient was noted to minimize her 
symptoms, stating she was having a good day and had an 
appointment with her therapist, discussing how much better she 
was doing. She initially reported her semester had been going
well and her grades were good and acknowledged recent stressors 
of being sick all semester with URI symptoms and her grandmother 
passing away 1.5 weeks ago. Patient denied suicidal ideation, 
reported good appetite, denied weight changes.  
. 
However, collateral from her therapist, ___ 
___ was concerning. She had been meeting with the 
patient for the last semester in ___. She has 
severe depression, hopelessness. She has been deteriorating in a 
___ program she hates and is polarized about options. She 
has been granted extensions for all classes which she is 
failing. She is not forthcoming in sessions, is usually at a 
whisper. She has 1 suicide attempt of OD (maybe Tylenol ___ 
around ___ years ago. Cousin whom she was close with committed 
suicide in childhood. Father has bipolar disorder. Parents 
separated due to father's infidelity. She is living with a 
partner and no one including the partner knows. Home is a 
stressful environment, mom is emotionally ___ at best, 
may be emotionally or verbally abusive but this is not clear. 
When asked what might happen if she fails she said there is no 
point in living. Medical leave was recommended earlier in the 
semester. There is a question of bipolar disorder which she 
asked about today in session. She seemed more irritable today, 
tried to elope from the office when she called police for 
transport to ED. She is not open to IOP. She is on SSRI w/ PCP @ 
___ but she has not been following up. Psych care 
offered on outpatient basis which she did not follow up with. 
Smoking pot regularly, no other drugs
known.
. 
ED Course: patient did become agitated in the emergency room, 
punching a wall. She received Haldol 5 mg po, Ativan 2 mg po, 
and Cogentin 1 mg po. 
. 
On my interview with Ms. ___, who was more forthcoming on 
examination compared to the ED but who continued to be a 
reluctant and inconsistent historian, she admitted that she had 
been struggling this past semester, stating she had been falling 
behind in her coursework, which has been difficult "because I'm 
hard on myself and have high standards." Patient reported she is 
a first year ___ student studying ___ at ___ 
and that things were going well until midterms. When asked what 
changed, she stated nothing but then stated that her cousin's 
wife's brother committed suicide about ___ months ago, but they 
were not close. She stated that about 1.5 weeks ago, her 
grandmother died, which was difficult because she was close to 
her and it was close to when classes were ending. Patient was 
inconsistent in reporting if she was feeling depressed, stating 
she had been seeing a therapist this past semester, but this has 
not been helpful in helping her feel better, but later in the 
interview, she reports her mood as "good" and "okay." 
. 
Patient reported she has been doing "okay" and stated that at 
baseline she is "not the perkiest person out there." Reported 
she enjoys hiking and going on walks with her girlfriends and 
denied anhedonia. Reported her energy is "pretty good" and 
denies difficulties with concentration. Denied suicidal 
ideation, but stated, "I don't see much of a future since I 
don't like my program." 
. 
On psychiatric review of systems, patient denied a history of 
manic symptoms including decreased need for sleep, excessive 
amounts of energy, impulsivity, grandiosity. Denied a history of 
psychosis including AVH, paranoia, thought insertion or 
broadcasting. Denied panic attacks. Denied restricting, binging
or purging. Denied excessive alcohol use but admitted she had 
been smoking cannabis every other day. 

 
Past Medical History:
Past psychiatric history:
- Diagnoses: no formal diagnoses 
- SA/SIB: denies/denies
- Hospitalizations: denies 
- Therapist: ___ 
- Psychiatrist: none 
- Medication Trials: Celexa, titrated to 20 mg about 3 weeks ago

Past medical history:
Appendicitis s/p resection 
Genital herpez
 
Social History:
Substance use history:
- Alcohol: denies 
- Illicits: reports smoking cannabis every other day, denies 
other illicit drug use 
- Tobacco: denies 
. 
Personal and Social History: Per patient, OMR. Born and raised 
in ___, ___ to an intact family as the youngest 
of two. She has a brother who is ___ years older, ___, who 
currently is a ___ and lives in 
___. She reports they a re close. Patient stated her 
mother used to work as a ___ and described her mother as 
"nice... people like her" but also stated that her mother would 
tell her to "smile when I was sad or mad." Patient described her 
father as "obnoxious," stating that he is a ___ and 
currently owns a ___, which he runs with her 
mother. Patient stated that she tended to be shy as a child, 
which was difficult for her mother, as her mother is social. She 
was very involved in athletics, playing field hockey, figure 
skating, golfing, and playing squash. When she was in the ___ 
grade, her family moved from ___ to ___ for a 
year so she and her brother could attend golf school. Patient 
reported this was "okay," and described it as a "good 
experience" but also noted she hated playing golf. She then 
attended boarding school, which she described as "good," but 
then admitted that her freshman year was difficult, as she was 
homesick. Patient attended ___ for college, which she 
stated was "good" and was the captain of the golf and squash 
team there. She studied geology while there and stated her 
studies were "busy" with her thesis being "stressful." While she 
was there she met her partner, ___, who was on the squash team, 
and they have been
together since. Of note, she also described her partner as 
"nice... quiet." As noted above, patient is currently a first 
year student at ___ in a ___ program studying art with 
the goal of teaching. She reports she does not like the program 
at all but did not want to tell her mother, as she would be 
disappointed. Never married, no children. Denies history of 
sexual, emotional, or physical abuse. Denies legal history. 
. 

 
Family History:
Family psychiatric history:
- Diagnoses: patient reports father has been diagnosed with 
cyclothymia 
- Suicides: Maternal cousin completed suicide ___ years ago
- Addictions: father with alcohol use disorder 

 
Physical Exam:
VITAL SIGNS:
___ 1658 Temp: 98.1 PO BP: 104/72 HR: 86 RR: 16 O2 sat: 
100%

EXAM:
General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted.

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: 2 and symmetrical throughout
Coordination: Normal on finger to nose test, no intention tremor
noted
-Gait: Good initiation.  Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty.  Romberg
absent.

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: MOYb with 0 errors
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall after 5 ___
grossly intact
-Fund of knowledge: Consistent with education; intact to last 3
presidents
-Calculations: 7 quarters = "$1.75"
-Abstraction: Interprets "People who live in glass houses
shouldn't throw stones" as "It can break"
-Visuospatial: Not assessed
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

Admission 
Mental Status:
-Appearance: Age appearing thin female who appears her states
age, she is sitting comfortably in the interview chair in no
acute distress. 
-Behavior: Engaged in the interview, with good eye contact, no
psychomotor agitation or retardation noted. Patient often
laughing uncomfortably throughout the interview. 
-Attitude: Cooperative, engaged, friendly
-Mood: "depressed and anxious"
-Affect: Mood-congruent, tearful throughout the interview,
appropriate to situation
-Speech: Normal rate, volume, and tone
-Thought process: Linear, coherent, goal-oriented, no loose
associations
-Thought Content:
---Safety: Denies SI/HI
---Delusions: No evidence of paranoia, etc. 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
-Insight: Limited
-Judgment: Poor
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
================================================================
Discharge Examination: 
98.0 110/69 89 16 99% R/A 
A/B: Appears stated age, dressed casually with good hygiene and 
grooming, calm, cooperative with interviewer, good eye contact, 
no psychomotor agitation or retardation noted
S: normal rate, volume, prosody, goal directed
M: "okay" 
A: slightly anxious, brighter, mood congruent, appropriate
TC: denies SI/HI, AVH
TP: linear, logical, goal and future oriented
C: awake, alert and oriented x3 
I/J: fair/fair 
 
Pertinent Results:
___ 12:40PM URINE  HOURS-RANDOM
___ 12:40PM URINE  UCG-NEGATIVE
___ 12:40PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 12:40PM URINE  COLOR-Yellow APPEAR-Hazy* SP ___
___ 12:40PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 12:40PM URINE  RBC-2 WBC-3 BACTERIA-FEW* YEAST-NONE 
EPI-3 TRANS EPI-<1
___ 12:40PM URINE  AMORPH-RARE*
___ 12:40PM URINE  MUCOUS-FEW*
___ 08:17PM   GLUCOSE-94 UREA N-4* CREAT-0.7 SODIUM-141 
POTASSIUM-3.8 CHLORIDE-101 TOTAL CO2-25 ANION GAP-15
___ 08:17PM   estGFR-Using this
___ 08:17PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 08:17PM   WBC-10.7* RBC-4.20 HGB-12.6 HCT-37.3 MCV-89 
MCH-30.0 MCHC-33.8 RDW-12.4 RDWSD-40.1
___ 08:17PM   NEUTS-75.0* LYMPHS-15.8* MONOS-6.0 EOS-1.2 
BASOS-1.6* IM ___ AbsNeut-7.99* AbsLymp-1.68 AbsMono-0.64 
AbsEos-0.13 AbsBaso-0.17*
___ 08:17PM   PLT COUNT-220
 
Brief Hospital Course:
#. Legal/Safety: Patient was admitted on a ___, upon 
admission she signed a conditional voluntary agreement (Section 
10 & 11) and a 3 day notice which expired on ___. Of note, 
she maintained her safety throughout her admission on 15 minute 
checks and did not require physical or chemical restraints. 
Given her good behavioral control and consistent denial of 
suicidal ideation or thoughts of self harm, I did not believe 
she met criteria to file a 7&8b. 
.
#. Mood disorder: This is the complicated case of a ___ year old 
woman with reported history of depression, daily cannabis use, 
currently a graduate student at ___, no prior 
psychiatric hospitalizations, who presented to ___ ED via EMS 
on a ___ from her therapist due to concern for suicidal 
ideation.

On patients initial assessment in the ___ ED patient denied 
any symptoms of depression, or neuro vegetative symptoms noting 
that everything was fine. Patient declined to have her family or 
partner contacted for collateral information at that time. She 
also denied any problems with school work or interpersonal 
stressors.  She did not agree with her therapist referring her 
to the ___ for evaluation. However on collateral from school 
counselor was concerning for patient endorsing suicidal 
ideation, and polarized thinking noting feeling hopeless about 
her future should she not pass any of her courses. Patient was 
noted to be failing all of her courses, and had been granted 
extensions on past projects which patient had not started. 
Patient was also having interpersonal issues with her family, as 
her parents recently separated, her grandmother had recently 
passed away 2 weeks ago, her family did not know that she was in 
a relationship with her same sex roommate and she had a history 
of overdose on Tylenol/Nyquil, as well as self harm. 

On later assessments patient did endorse feeling increasingly 
down and depressed due to her poor academic standing. However 
she was inconsistent with her reports of her past psychiatric 
history, and presenting history during several assessment 
during. Patient was noted to be reluctant to share her symptoms 
with the primary team during the beginning of her hospital 
course. After admission she was later able to share difficulties 
with her family dynamics, she shared her mother had a tendency 
to place a lot of pressure on her as a child and encouraged her 
to be happy, particularly when patient had been feeling down. 
Patient noted feeling guilty regarding how her mental health was 
an added stressor to her mother given all of the recent losses 
in their family as well as the marital struggles with her 
father. Patient was also noted to provide fluctuating plans for 
her future, noting she disliked her current ___ program in 
___ education and planed to change Geology, later backtracking 
and stating she planed to pursue a carrier in ___ education. 
Mental status examination notable for well groomed woman who was 
withdrawn, somewhat oddly related, "good" mood, dysthymic 
affect, thought process that is notably linear, goal oriented. 

Diagnostically, etiology of presentation was likely 
multifactorial in etiology with  differential diagnosis includes 
mood disorder such a mayor depressive disorder although patient 
does not consistently meet diagnostic criteria, there is also a 
question of the chronicity of her depressive symptoms therefore 
must consider a persistent depressive disorder. Must also 
consider bipolar disorder given her family history although 
patient denies a history of manic symptoms and did not appear 
manic on examination therefore this is less likely. Must also 
consider substance induced mood disorder with cannabis use 
resulting in mood, anxiety and cognitive dysfunction. Given 
prominence of her depressive mood symptoms patient was continued 
on her Citalopram 20 mg daily, which was later up titrated to 30 
mg which patient tolerated well without complaints of side 
effects. Patient was also engaged in intensive individual 
therapy and group therapy while in the milieu. Patient continued 
to have difficulty engaging in individual therapy but gradually 
became more open with her treatment team and more forthcoming. 
She was able to attend group therapy frequently during current 
hospitalization. Family meeting with mother, primary team and 
patient was held were safety and disposition planning was 
addressed. Mother and patient were both in agreement with 
disposition plan which included referrals to out patient 
psychiatry, therapy and primary care. At time of discharge 
patient denied suicidal ideation, plan or intent, she planed to 
continue to follow-up with her outpatient providers in order to 
continue her mental health treatment. Of note, she declined a 
referral to a partial program. 
. 
#. Cannabis use disorder: Patient endorses daily cannabis use 
for sleep and
anxiety 
- encourage patient to attend AA and NA groups 
- provided psycho-education regarding effects of cannabis on 
mental health disorders 
. 
#. Atopic dermatitis: stable 
- Continued home Ecrisa BID PRN for atopic dermatitis
. 
#. Genital Herpes Simplex: stable, asymptomatic 
.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 20 mg PO DAILY 
2. Eucrisa (crisaborole) 2 % topical BID:PRN atopic dermatitis 

 
Discharge Medications:
1.  Citalopram 30 mg PO DAILY  
2.  Eucrisa (crisaborole) 2 % topical BID:PRN atopic dermatitis  


 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified depressive disorder 
Unspecified anxiety disorder 
Cannabis use disorder 

 
Discharge Condition:
98.0   110/69   89   16   99% R/A 
A/B: Appears stated age, dressed casually with good hygiene and 
grooming, calm, cooperative with interviewer, good eye contact, 
no psychomotor agitation or retardation noted
S: normal rate, volume, prosody, goal directed
M: 'okay' 
A: slightly anxious, brighter, mood congruent, appropriate
TC: denies SI/HI, AVH
TP: linear, logical, goal and future oriented
C: awake, alert and oriented x3 
I/J: fair/fair 

 
Discharge Instructions:
You were hospitalized at ___ for symptoms of worsening 
depression and thoughts of wanting to harm yourself. While you 
were here you were able to engage in individual and group 
therapy, your medications were also optimized. You responded 
well, and are now ready to be discharged home.  

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.

 
Followup Instructions:
___